US06331538B1
3-Benzyloxy-1-ethyl-6-fluoro-7-[3-(N-tert-butoxycarbonylamino)pyrrolidin-1-yl]-1H-pyrido[2,3-d]pyrimidine-2,4-dione
Following the procedure of Example X-2, the reaction of 3-benzyloxy-7-chloro-1-ethyl-6-fluoro-1H-pyrido[2,3-d]pyrimidine-2,4-dione (Example N-2, 200 mg, 0.572 mmol) with 3-(N-tert-butoxycarbonylamino)pyrrolidine (117 mg, 0.629 mmol) in dichloromethane (5 mL) in the presence of triethylamine (0.087 mL) afforded 245 mg of the title compound as a solid, mp 157-159° C.

reactant | 3-benzyloxy-7-chloro-1-ethyl-6-fluoro-1H-pyrido[2,3-d]pyrimidine-2,4-dione | 0.572 mmol, 200 mg | C(C1=CC=CC=C1)ON1C(N(C2=C(C1=O)C=C(C(=N2)Cl)F)CC)=O | C16H13ClFN3O3
reactant | 3-(N-tert-butoxycarbonylamino)pyrrolidine | 0.629 mmol, 117 mg | C(C)(C)(C)OC(=O)NC1CNCC1 | C9H18N2O2
reactant | triethylamine | 0.087 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 3-Benzyloxy-1-ethyl-6-fluoro-7-[3-(N-tert-butoxycarbonylamino)pyrrolidin-1-yl]-1H-pyrido[2,3-d]pyrimidine-2,4-dione | 245 mg | C(C1=CC=CC=C1)ON1C(N(C2=C(C1=O)C=C(C(=N2)N2CC(CC2)NC(=O)OC(C)(C)C)F)CC)=O | C25H30FN5O5
